US04804649
Copper acetate.
The copper, barium, and yttrium solutions were mixed and the potassium oxalate solution was added all at once with vigorous stirring. The pH of the solution was 11.3. A brown gelatinous precipitate formed, and it was filtered, washed thoroughly with water, dried at 120° C., and crushed to a fine powder. The elemental analysis shown in the table below suggested YBa2Cu3 (OH)3 (Ox)2O3.H2O.

reactant | copper | [Cu] | Cu
reactant | barium | [Ba] | Ba
reactant | potassium oxalate | C(C(=O)[O-])(=O)[O-].[K+].[K+]
catalyst | yttrium | [Y] | Y
product | Copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-] | InChI=1S/2C2H4O2.Cu/c2*1-2(3)4;/h2*1H3,(H,3,4);/q;;+2/p-2
